US08633173B2
8-[4-(Propane-2-sulfonyl)-phenyl]-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine was prepared from 8-bromo-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine (500.0 mg, 2.347 mmol) and 4-isopropylsulfonylbenzeneboronic acid (650.0 mg, 2.850 mmol) in a manner analogous to Step 2c. The reaction product was isolated as an off-white solid (0.317 g, 42%). MP=175-177° C. 1H NMR (400 MHz, (D3C)2SO, δ, ppm): 8.64 (d, J=6.6 Hz, 1H), 8.39 (d, J=7.4 Hz, 2H), 7.96 (d, J=7.5 Hz, 2H), 7.85 (d, J=7.4 Hz, 1H), 7.06-7.00 (m, 1H), 6.21 (br s, 2H), 3.54-3.42 (m, 1H), 1.19 (d, J=6.5 Hz, 6H). MS=317 (MH)+.

reactant | 8-bromo-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine | 2.347 mmol, 500.0 mg | BrC=1C=2N(C=CC1)N=C(N2)N | C6H5BrN4
reactant | 4-isopropylsulfonylbenzeneboronic acid | 2.850 mmol, 650.0 mg | C(C)(C)S(=O)(=O)C1=CC=C(C=C1)B(O)O | C9H13BO4S
product | 8-[4-(Propane-2-sulfonyl)-phenyl]-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine | CC(C)S(=O)(=O)C1=CC=C(C=C1)C=1C=2N(C=CC1)N=C(N2)N | C15H16N4O2S
